US03996364
Methyl isocynate (20 g.) is added slowly, with stirring, to a filtered solution of 30 g. of xanthydrol in 100 ml. of anhydrous triethylamine. After standing for 40 minutes in a 20° C. water bath, the mixture is filtered. The collected solid is washed with anhydrous diethyl ether and dried in vacuo to give 9-(N-methylcarbamoyloxy)xanthene.

reactant | Methyl isocynate | 20 g | CN=C=O | C2H3NO
reactant | xanthydrol | C1=CC=C2C(=C1)C(C3=CC=CC=C3O2)O | C13H10O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 9-(N-methylcarbamoyloxy)xanthene | CNC(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H13NO3
